US07375220B2
100 mL of a 1.5 molare (150 mmol) butyl lithium in hexane were added to a solution of 18 g (75 mmol) 2-methyl-5,6,7,8-tetrahydro-naphthalene-3-sulfonic acid methylamide in 200 mL tetrahydrofuran at −20° C. The resulting mixture was allowed to come to room temperature and was poured onto a mixture of ether and solid CO2. After addition of water the resulting mixture was acidified with dilute HCl and then extracted with CH2Cl2. The CH2Cl2 solution was washed, dried and concentrated. Recrystallization from ether/petroleum ether gave 15.8 g 3-(N-methyl-sulfamoyl)-5,6,7,8-tetrahydro-naphthalene-2-acetic acid (melting point: 153-155° C.).

reactant | butyl lithium | 150 mmol | C(CCC)[Li]
reactant | 2-methyl-5,6,7,8-tetrahydro-naphthalene-3-sulfonic acid methylamide | 75 mmol, 18 g | CNS(=O)(=O)C=1C(=CC=2CCCCC2C1)C | C12H17NO2S
reactant | CO2 | C(=O)=O | CO2
reactant | HCl | Cl | ClH
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | ether | CCOCC | C4H10O
product | 3-(N-methyl-sulfamoyl)-5,6,7,8-tetrahydro-naphthalene-2-acetic acid | 15.8 g | CNS(=O)(=O)C=1C(=CC=2CCCCC2C1)CC(=O)O | C13H17NO4S
